US05891899
2-Methyl-4-bromobenzoyl chloride (29.1 g, 0.13 mol) was treated with the dilithium salt of ethyl hydrogen malonate (28.0 g, 0.21 mol) and the product was isolated by the procedure described in Example 1 (ii). The crude product was purified on flash silica, eluting with dichloromethane-hexane (1:1 then 3:2) to give ethyl 2-methyl-4-bromobenzoylacetate as an oil.

reactant | 2-Methyl-4-bromobenzoyl chloride | 0.13 mol, 29.1 g | CC1=C(C(=O)Cl)C=CC(=C1)Br | C8H6BrClO
reactant | dilithium | [Li][Li] | 2Li
reactant | ethyl hydrogen malonate | 0.21 mol, 28.0 g | C(CC(=O)O)(=O)OCC | C5H8O4
product | ethyl 2-methyl-4-bromobenzoylacetate | CC1=C(C(=O)CC(=O)OCC)C=CC(=C1)Br | C12H13BrO3
